US05889178
(1S-trans)-[3-(N,N-Dimethylamino)cyclopentyl]carbamic acid 1,1-dimethylethyl ester
(1S-cis)-[3-[(Methylsulphonyl)oxy]cyclopentyl]carbamic acid 1,1-dimethylethyl ester (1.452 g, 5.20 mmol) in a solution of dimethylamine (33% in ethanol, 25 ml) was heated at reflux for 3.75 h, then allowed to cool. The solution was diluted with water (100 ml) and extracted with ethyl acetate(3×100 ml). The total organic solution was dried (Na2SO4) and evaporated to a yellow gum. This was purified on silica, eluting with dichloromethane:ethanol:0.88 ammonia (100:8:1) changing to (30:8:1) to give a brown film (0.988 g, 83%). A portion of this was evaporated from a solution in isopropyl ether to give the title compound (0.139 g) as a brown solid, m.p. 65°-67° C., [α]D -40.35°(CHCl3 c=0.57%).

reactant | (1S-cis)-[3-[(Methylsulphonyl)oxy]cyclopentyl]carbamic acid 1,1-dimethylethyl ester | 5.20 mmol, 1.452 g | CC(C)(C)OC(N[C@@H]1C[C@@H](CC1)OS(=O)(=O)C)=O | C11H21NO5S
reactant | dimethylamine | 25 ml | CNC | C2H7N
solvent | water | 100 ml | O | H2O
product | (1S-trans)-[3-(N,N-Dimethylamino)cyclopentyl]carbamic acid 1,1-dimethylethyl ester | 0.139 g | CC(C)(C)OC(N[C@@H]1C[C@H](CC1)N(C)C)=O | C12H24N2O2
